US05905155
That same document describes the preparation of (-)-6-hydroxy-1,2,3,4-tetrahydroquinoline-3-carboxylic acid with an optical purity of 100% and a yield of 95%, from m-tyrosine in accordance with the same method. However, where L-phenylalanine is used as the starting material, it is not possible to obtain a (-)-1,2,3,4-tetrahydroquinoline-3-carboxylic acid with 100% optical purity.

reactant | (-)-6-hydroxy-1,2,3,4-tetrahydroquinoline-3-carboxylic acid | OC=1C=C2CC(CNC2=CC1)C(=O)O | C10H11NO3
reactant | m-tyrosine | C1=CC=C(C=C1)C(C(C(=O)O)N)O | C9H11NO3
reactant | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
product | (-)-1,2,3,4-tetrahydroquinoline-3-carboxylic acid | yield of 95% | N1CC(CC2=CC=CC=C12)C(=O)O | C10H11NO2
